US08030500B2
6-Chloro-4-fluoro-1-(3-methoxyphenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
tert-Butyllithium (1.7 M in pentane, 6.59 mL, 11.20 mmol) was added dropwise to THF (10 mL) at −100° C. under an argon atmosphere. A solution of 4-bromo-2-trifluoromethylpyridine (1.266 g, 5.60 mmol) in THF (1 mL) was added dropwise followed by the addition of N-((5-chloro-2-cyano-3-fluorophenyl)(3-methoxyphenyl)methylene)-2-methylpropane-2-sulfinamide (2 g, 5.09 mmol) in THF (6 mL). The resulting reaction mixture was left on the thawing cooling bath for 30 min then the cooling bath was removed and the mixture was stirred at rt for 1.5 h. Hydrogen chloride in methanol solution (20.36 mL, 25.45 mmol) was added and the mixture was stirred at rt for 1 h. The mixture was concentrated and purified on a silica gel column eluted with 0-10% 0.1M NH3 in MeOH in DCM to afford 870 mg (39%) of the title compound.

reactant | tert-Butyllithium | 11.20 mmol, 1.7 M, 6.59 mL | C(C)(C)(C)[Li]
reactant | 4-bromo-2-trifluoromethylpyridine | 5.60 mmol, 1.266 g | BrC1=CC(=NC=C1)C(F)(F)F | C6H3BrF3N
reactant | N-((5-chloro-2-cyano-3-fluorophenyl)(3-methoxyphenyl)methylene)-2-methylpropane-2-sulfinamide | 5.09 mmol, 2 g | ClC=1C=C(C(=C(C1)C(=NS(=O)C(C)(C)C)C1=CC(=CC=C1)OC)C#N)F | C19H18ClFN2O2S
reactant | Hydrogen chloride | Cl | ClH
reactant | methanol | 25.45 mmol, 20.36 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Chloro-4-fluoro-1-(3-methoxyphenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 870 mg, 39% | ClC1=CC(=C2C(=NC(C2=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=CC=C1)OC)N)F | C21H14ClF4N3O
